US07872033B2
To a refluxing mixture of acetone (20 mL), methyl 5-cyano-2-hydroxybenzoate (2.0 g, 11.3 mmol, Astatech) and potassium carbonate (3.1 g, 22.6 mmol) in a 40 mL sealed vial was added dropwise 2,2,2-trifluoroethyl trifluoromethanesulfonate (3.9 g, 16.9 mmol, TCI). The mixture was stirred at reflux overnight and then concentrated under reduced pressure. The residue was dissolved in water (50 mL) and dichloromethane (50 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated to afford 1.8 g of crude methyl 5-cyano-2-(2,2,2-trifluoroethoxy)benzoate that was suspended in methanol/water (1:1, 100 mL) and treated with an aqueous solution of 5N sodium hydroxide (2.8 mL, 13.9 mmol). After stirring at 40° C. for 16 h, the reaction mixture was concentrated and then washed with methylene chloride. The aqueous layer was acidified to pH˜2 with aqueous 2N HCl solution to precipitate the product. The precipitate was filtered and dried under reduced pressure to afford 1.1 g of a product mixture of the title compound with unreacted 5-cyano-2-hydroxybenzoic acid (5:2 ratio). MS (ESI+) m/z 263 (M+NH4)+.

reactant | methyl 5-cyano-2-hydroxybenzoate | 11.3 mmol, 2.0 g | C(#N)C=1C=CC(=C(C(=O)OC)C1)O | C9H7NO3
reactant | potassium carbonate | 22.6 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 16.9 mmol, 3.9 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | methyl 5-cyano-2-(2,2,2-trifluoroethoxy)benzoate | 1.8 g | C(#N)C=1C=CC(=C(C(=O)OC)C1)OCC(F)(F)F | C11H8F3NO3
